US06441236B1
1-(2-methyl-[1,3]dioxan-2-yl)-propane-1,2-dione 1(E)-(O-methyloxime) (Tab.1, III.3)
Starting from 103 g (0.72 mol) of pentane-2,3,4-trione 3-(O-methyloxime), 275 g (3.62 mol) of 1,3-propanediol, 80 g (0.76 mol) of trimethyl orthoformate and 1.6 g of p-toluenesulfonic acid (9 mmol) and using the procedure of Example 2, 137 g (94% yield) of a reddish oil were obtained which, according to HPLC, had a purity of 70% (phys. data see Tab. 1).

reactant | pentane-2,3,4-trione 3-(O-methyloxime) | 0.72 mol, 103 g | CON=C(C(C)=O)C(C)=O | C6H9NO3
reactant | 1,3-propanediol | 3.62 mol, 275 g | C(CCO)O | C3H8O2
reactant | trimethyl orthoformate | 0.76 mol, 80 g | C(OC)(OC)OC | C4H10O3
catalyst | p-toluenesulfonic acid | 9 mmol, 1.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1-(2-methyl-[1,3]dioxan-2-yl)-propane-1,2-dione 1(E)-(O-methyloxime) | 137 g, 94% yield | CO\N=C(/C(C)=O)\C1(OCCCO1)C | C9H15NO4
